US04977258
7-Chloro-3-(5-propyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][4,1]benzoxazepine (III)
7-Chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a]-[4,1]benzoxazepine-3-amidoxime (2 g, 7 mmole) in n-butyric anhydride (6 ml) was heated at 150° C. for 1 hour. The crude product was chromatographed on silica, initially with ethyl acetate:hexane (1:1) and then changing to ethyl acetate. The purified product was crystallised from ethyl acetate:cyclohexane (4:1) to give the product (1.2 g, 50%), m.p. 130°-132° C.

reactant | 7-Chloro-5,6-dihydro-6-oxo-4H-imidazo[1,5-a]-[4,1]benzoxazepine-3-amidoxime | 7 mmole, 2 g | ClC1=CC=CC2=C1C(OCC=1N2C=NC1C(N)=NO)=O | C12H9ClN4O3
solvent | n-butyric anhydride | 6 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 7-Chloro-3-(5-propyl-1,2,4-oxadiazol-3-yl)-5,6-dihydro-6-oxo-4H-imidazo[1,5-a][4,1]benzoxazepine | 1.2 g, 50% | ClC1=CC=CC2=C1C(OCC=1N2C=NC1C1=NOC(=N1)CCC)=O | C16H13ClN4O3
